### PR TITLE
feat(fv): binding reduction

### PR DESCRIPTION
**Pull request by TalDerei**
**Human Summary:**

References follow-up work in https://github.com/zcash/ironwood/issues/13. 

Binding bridges the deployed verifier (`assemble`) with the abstract IPA soundness component, and it's modeled as a DLR-hardness reduction (emulating the same `HasNontrivialRelation` shape per https://github.com/zcash/ironwood/pull/4#discussion_r3415620886).

Recall, FS is currently treated as an assumed hypothesis in the soundness definition. The actual forking / rewinding to produce the transcript tree (`FiatShamirTree`) is assumed, but the gap this binding impl closes is the other side of that: once you have the tree (again, it's assumed), you can peel and separate the U/W/S (extra terms the verifier mixes into the MSM) to get a clean IPA transcript tree the extractor can operate on. That "peeling" piece was previously assumed, and is now proved. 

Out of scope: the rewinding/forking half of `FiatShamirTree` is #11. 

------------

**AI Summary:**

This PR puts commitment binding to work on the deployed soundness path. Mental
model: start from the real deployed MSM, peel off the extra `U`/`W`/`S`
machinery, and either recover the clean IPA opening or surface a discrete-log
relation.

## What Is Proven

- **Augmented binding**: a collision in the deployed `(g, U, W)` basis yields a
  nontrivial discrete-log relation.
- **Deployed-to-clean peel**: `DeployedIpaAcceptV` reduces to the clean IPA
  accept structure `ipa_soundV` consumes, with the opened commitment and value
  pinned to the proof's `multiopenCommitment` / `multiopenValue`.
- **Equation match**: `assembleFinalMsm` entails Halo2's explicit IPA verifier
  equation, in the direction soundness needs.
- The Vesta opening endpoints now conclude `SnarkRelation ∨ NontrivialRelation`,
  with the relation *computed as data* (`NontrivialRelation.ofUnopenedFork` /
  `ofDeployedTree`) rather than asserted — an `∃`-closed `HasNontrivialRelation`
  is vacuously true at a prime-order curve.

## Remaining Floor

The relation branch is the computational assumption: Lean *exhibits* a concrete
`NontrivialRelation` (as data), but ruling out an efficient adversary that
*finds* one is the DLR-hardness layer outside Lean (AGM handoff in #28).
`FiatShamirTree` is still assumed here — a data-producing `Type` yielding a
`ForkedTranscript` (`DeployedIpaVerifierEq → ForkedTranscript`), the residual
forking bridge. This PR proves what to do *once* the forked tree exists;
deriving it under random-oracle Fiat-Shamir is #24. Binding the extracted
batched opening back to the actual circuit columns is #18.

## Issue Scope Check

Issue #13 asks to put binding on the deployed soundness path; this does so for
the opening-level argument, leaving the bad case as exactly the DLR relation
branch. It does not close Fiat-Shamir rewinding (#11 / #24) or the multiopen
decode for constraint extraction (#18).

Builds are green on the current PR head.

### CODE REVIEW

**Comment by TalDerei** [comment]
rebased the commit history to make this more easily reviewable. now checkpointing and handing off for review and will address feedback without force pushes.

File: Zcash/Common/DiscreteLogRelation.lean
Comment (TalDerei) [inline Zcash/Common/DiscreteLogRelation.lean:1]: @daira this generalized `NontrivialRelation` (which was previously defined with respect to `bsk` in the security argument) with thin wrappers that can instantiate specific shapes over it.

File: Zcash/Common/DiscreteLogRelation.lean [hunk 1]
```diff
@@ -0,0 +1,33 @@
...
+coefficients) so a reduction can compute it rather than merely assert its existence. In a
+prime-order group such a relation always *exists* propositionally, so an ∃-closed `Prop` would be
+vacuous; the content is that a reduction produces one, discharged against discrete-log-relation
+hardness at the computational layer.
+
+Both crypto layers instantiate this: the binding-signature reduction
+(`Zcash.Security.BindingSignature`) at the value/randomness bases (empty `g`, `U`/`W` the two
+bases), and the deployed-verifier soundness peel (`Zcash.Snark`) at the augmented IPA generators
+(`g` the URS opening generators, `U` inner-product, `W` blinding).
+-/
```
Comment (TalDerei) [inline Zcash/Common/DiscreteLogRelation.lean:17]: note, don’t make comment specific to one of the uses.

File: Zcash/Snark/Soundness/Deployed/Binding.lean [hunk 2]
```diff
@@ -0,0 +1,51 @@
...
+`commitmentBinding_iff_no_relation`). The deployed verifier additionally folds the inner-product
+generator `U` and the blinding generator `W` into one group equation, so soundness there needs
+binding over the *augmented* system `(g, U, W)`. That system is the shared `Zcash.NontrivialRelation`
+(its `∑ i, a i • g i` is the Snark commitment `commitGen g a`); this module computes the relation per
+the breaks-as-computed-data convention (`Zcash.Security.RandomOracle`):
+
+* `NontrivialRelation.ofCombinationCollision` — a combined `(g, U, W)`-equation whose coordinates do
+  not all agree *computes* a relation: the augmented analog of `relation_of_collision`, and the step
+  that ties the deployed peel (`Zcash.Snark.Soundness.Deployed.IpaPeel`) to binding rather than to a
+  discarded uniqueness conjunct.
```
Comment (daira) [inline Zcash/Snark/Soundness/Deployed/Binding.lean]: End the sentence at "binding." to avoid referring to a discarded approach.

File: Zcash/Snark/Soundness/Main.lean [hunk 3]
```diff
@@ -83,12 +112,51 @@ def DeployedAccepts [DecidableEq G] [Inhabited G] {shape : Shape} (urs : URS G)
   | some m => (hk ▸ m : Msm urs.k Fp G).eval urs = 0
   | none => False
 
+/-- The `urs.k`↔`shape.k` transport, isolated: evaluating the `hk`-transported MSM against `urs`
+is the same as evaluating `m` against the URS rebuilt at `shape.k` with `urs`'s (transported)
+generators. With `urs` free here, `cases urs` + `subst hk` collapses the cast to `rfl`. This lets
```
Comment (daira) [inline Zcash/Snark/Soundness/Main.lean]: This is too much detail about the proof.

File: Zcash/Snark/Soundness/Main.lean [hunk 4]
```diff
@@ -83,12 +112,51 @@ def DeployedAccepts [DecidableEq G] [Inhabited G] {shape : Shape} (urs : URS G)
...
+  obtain ⟨k, g, w, u⟩ := urs
+  change shape.k = k at hk
+  subst hk
+  rfl
+
+/-- **The deployed accept entails the verifier equation.** From `DeployedAccepts`,
+`assemble?_eq_some` identifies the accepted MSM with the non-rejecting `assembleFinalMsm`, and
+`deployed_verification_eq` rewrites its evaluation to the explicit closed form — so
+`DeployedIpaVerifierEq` holds for the proof's actual `(vk, ps, ch)`. An implication, not an `Iff`
+(the accept also comprises the rejection guards) — the direction soundness consumes. This
```
Comment (daira) [inline Zcash/Snark/Soundness/Main.lean]: This is a bit of a silly way to describe a completeness property.

File: Zcash/Snark/Soundness/Main.lean [hunk 5]
```diff
@@ -83,12 +112,51 @@ def DeployedAccepts [DecidableEq G] [Inhabited G] {shape : Shape} (urs : URS G)
...
+discharges the MSM↔equation correspondence the Fiat–Shamir bridge used to absorb; what the bridge
+still supplies is inventoried at `FiatShamirTree`. The `urs.k`↔`shape.k` transport is
+`eval_cast`. -/
```
Comment (daira) [inline Zcash/Snark/Soundness/Main.lean]: Irrelevant proof detail.

File: Zcash/Snark/Soundness/Main.lean [hunk 6]
```diff
@@ -100,31 +168,109 @@ theorem ipaRelation_of_acceptV (urs : URS G) (b : Fin (2 ^ urs.k) → Fp) (P : G
...
+equation (`deployedAccepts_verifierEq`). -/
+def ForkedTranscript.ofAccepts [DecidableEq G] [Inhabited G] {shape : Shape} (urs : URS G)
+    (hk : shape.k = urs.k) (vk : VerifyingKey shape Fp G) (ps : ProofString shape Fp G)
+    (ch : Challenges shape.k Fp) {b : Fin (2 ^ urs.k) → Fp} {z blind : Fp}
+    (haccepts : DeployedAccepts urs hk vk ps ch)
+    (hFS : FiatShamirTree urs hk vk ps ch b z blind) :
+    ForkedTranscript urs hk vk ps ch b z blind :=
+  hFS (deployedAccepts_verifierEq urs hk vk ps ch haccepts)
+
+/-! ## The constraint-side hypotheses are unsatisfiable at a prime-order curve
```
Comment (daira) [inline Zcash/Snark/Soundness/Main.lean:280]: Clarify the implications of this comment.

File: Zcash/Snark/Soundness/Deployed/Verification.lean [hunk 7]
```diff
@@ -0,0 +1,154 @@
...
+/-- halo2's explicit IPA verifier equation for the deployed proof, set to the group identity. By
+`deployed_verification_eq` this is exactly `(assembleFinalMsm …).eval = 0`. Stating it explicitly
+lets the forking bridge act on halo2's actual IPA equation, with `P`/`v` the pinned
+`multiopenCommitment`/`multiopenValue`.
+
+Totality caveat: the closed form uses Lean's total inverse (`0⁻¹ = 0`), so at a zero round
+challenge the equation is defined although no deployed execution corresponds to it (the Rust
+inverts the round challenges). Harmless for the soundness direction — the capstones consume the
+equation only under `DeployedAccepts` — but the equation is total where halo2 is partial (a
+negligible-probability corner). -/
```
Comment (daira) [inline Zcash/Snark/Soundness/Deployed/Verification.lean]: This is a problem though: it allows proving completeness when Halo 2 is not perfectly complete.

**Review by daira — APPROVED** [review]
ACK conditional on fixing the W-blinding issue.

**Comment by daira** [comment]
Fable's assessment: "The constraint-side hypotheses are knowingly unsatisfiable, and only a section note says so."

**Comment by TalDerei** [comment]
> ACK conditional on fixing the W-blinding issue.

the issue being fixed: "the tree decomposes every prover message onto (g, U, W) except the one it opens: the pinned commitment P is forced entirely onto g, but every real halo2 P contains blinding on W, so no forked transcript satisfying the assumed interface can exist for any real proof."

Now i can claim: **A transcript now exists for real proofs.**

File: Zcash/Snark/Soundness/Main.lean [hunk 8]
```diff
@@ -176,17 +178,43 @@ abbrev deployedCommitment [DecidableEq G] [Inhabited G] {shape : Shape} (urs : U
...
+child equations at distinct challenges Vandermonde-pin them. Opening the raw `deployedCommitment`
+would therefore be unsatisfiable for every real proof. So the bridge *declares* those components
+(`ForkedTranscript.pU`/`pW`; honest values `0` and the aggregate blind), and the tree opens
+`deployedCommitment − [pU]u − [pW]w`. The declaration is itself pinned up to a break: two
+declarations for one commitment collide into a computed relation
+(`NontrivialRelation.ofCombinationCollision`). -/
+
+/-- A forked deployed transcript, as data: the tree the Fiat–Shamir forking would produce, with
+its accept certificate, opening the declared form of the pinned commitment —
+`deployedCommitment − [pU]u − [pW]w`, per the section note above — to the pinned
```
Comment (daira) [inline Zcash/Snark/Soundness/Main.lean]: Sentence is too long.

File: Zcash/Snark/Soundness/Main.lean [hunk 9]
```diff
@@ -237,39 +266,42 @@ unsatisfiable for the intended instantiation, not merely undischarged.
 
 /-- **The deployed binding reduction, as a computed relation.** A forked transcript whose
 projection is *not* cleanly accepted computes a nontrivial discrete-log relation among the
-augmented generators — `NontrivialRelation.ofDeployedTree` at the pinned
-`deployedCommitment`/`multiopenValue`. DLR hardness forbids an efficient adversary producing
-one, so the clean accept — the hypothesis of the `_of_forked` theorems below — must hold: the
-contrapositive reading (see `The reduction form` in the module docstring). -/
+augmented generators — `NontrivialRelation.ofDeployedTree` at the declared opening
+`fs.openedCommitment` and the pinned `multiopenValue`. DLR hardness forbids an efficient
```
Comment (daira) [inline Zcash/Snark/Soundness/Main.lean]: "DLR hardness ..." is unnecessary.

**Review by daira — APPROVED** [review]
ACK
